Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Lisinopril 
/ mango / papaya
 
Attending: ___
 
Chief Complaint:
Knee Pain, L Shoulder Pain, s/p Fall
 
Major Surgical or Invasive Procedure:
___ Ultrasound guided therapeutic paracentesis
___ Ultrasound guided therapeutic paracentesis

 
History of Present Illness:
___ PMH HCV (genotype 1a)/EtOH cirrhosis (c/b ascites, 
esophageal
varices, and hepatic encephalopathy), polysubstance use 
disorder,
HLD, COPD, PVD, GERD s/p lap fundoplication and hiatal hernia
repair, presenting with fever and s/p fall.  

Patient too lethargic to give history, and unable to reach HCP
for collateral overnight. Per ED notes, patient was discharged
___ after admission for NG tube dysfunction. Patient presenting
with fever and fall yesterday. Patient reports her boyfriend
noticed she was warm so called the ambulance. She was febrile to
38.5 in the ED. She reports nausea without vomiting. Denies new
cough. Denies dysuria, chest pain, SOB. She also had a fall
yesterday, says she "slipped going ot the bathroom," says it was
because of one of the medications she is taking. Reports head
strike, left shoulder/knee strike. Denies LOC. Went to sleep and
woke up in a lot of pain, espeicially left arm and knee.  

In the ED, initial VS were: 38.5 100/60 72 12 95/RA 
Exam notable for: AAOx3, poor attention, + Asterixis. CTAB. 
S1/S2
RRR. Abdomen TTP, distended, but soft. No ___ edema. Ecchymosis 
of
left knee with small apbrasion. TTP of posterior skull. Reported
TTP of upper C-spine. 

ECG: Sinus, no ischemic changes 

Labs showed: 
- WBC 12.4 Hb 7.9 Plt 78
- Cr 1.1 Na 138 Bicarb 23 AG 15 lytes WNL
- AST 215 ALT 40 AP 88 Tbili 1.2 Alb 3.2
- INR 1.7
- VBG: pH 7.47 pCO2 37 
- Serum tox negative, EtOH negative
- Utox positive for opiates, otherwise negative 

Imaging showed: 
- CT c-spine: No acute fracture or malalignment of the cervical
spine.
- CT head: No evidence of acute intracranial process.
- L glenohumeral XR: No acute fracture or dislocation.
- L knee XR: No acute fracture or dislocation.
- CXR: New mild interstitial pulmonary edema. Patchy opacities
within the lung bases likely reflect atelectasis in the setting
of low lung volumes. 
 
Consults: GI: Will need diagnostic paracentesis, would attempt
before starting abx. Agree with broad spectrum abx and will need
pan-culture.
Follow-up CXR to evaluate for etiologies of hypoxia and for
evidence of PNA. Can treated HE with lactulose + rifaximin.
Please check urine tox screen and EtOH level. Admit to
___ under Dr. ___. 

Patient received:  
___ 20:34 IV Albumin 25% (12.5g / 50mL) 25 g 
___
Partial Administration  
___ 21:30 IV Albumin 25% (12.5g / 50mL) 25 g 
___
Partial Administration  
___ 21:30 IV CefePIME  ___ Started  
___ 21:57 IV Albumin 25% (12.5g / 50mL) 25 g 
___
Partial Administration  
___ 21:57 IV Vancomycin (1000 mg ordered) ___
Started Stop 
___ 21:57 IV CefePIME 2 g ___ Stopped (___)  
___ 22:16 PO/NG Lactulose 30 mL ___  

Per discussion w/ ED, by time of transfer patient was so
lethargic and encephalpathic she required intermittent sternal
rubbing to have her answer any question. 

On arrival to the floor, patient is virtually unresponsive,
arousable to painful stimulus but a very limited historian.
Generally denies current symptoms, knows she is at ___, says year
is ___.   
 
REVIEW OF SYSTEMS: unable to perform due to mental status. 
 
Past Medical History:
HCV - genotype 1a decompensated with h/o ascites; liver biopsy 
in ___ showed stage ___ fibrosis 
EtOH cirrhosis (Child's Class B) c/b ascites, esophageal 
varices, HE
Hypertension
Hyperlipidemia
COPD
Alcohol use disorder
Depression
Cocaine use disorder
Tobacco use disorder
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair 
 
Social History:
___
Family History:
Mother: DM, CAD (COD), and was in a wheelchair for neuropathy.
Father: ___, rectal CA (COD)
Sister: mental illness 
___: 1 brother neonatal death, 1 brother death at 3 months, 

1 brother sudden death in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.2  112/63  94  18  95/2L  
GENERAL: lethargic, arousable but only for a few seconds at a
time, oriented to person and place, says year is ___  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera
NECK: supple, JVP 12cm 
HEART: RRR, S1/S2, no murmurs  
LUNGS: CTAB on limited lung exam  
ABDOMEN: distended, no overt tenderness, + fluid wave
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: grossly moving extremities, PEERLA, EOMI, no clear
nystagmus. Asterixis present. 
SKIN: warm and well perfused, multiple telangectasias 

DISCHARGE PHYSICAL EXAM
___ 1200 Temp: 98.1 PO BP: 119/55 HR: 98 RR: 18 O2 sat: 97%
O2 delivery: Ra FSBG: 169  
GENERAL: Awake and alert, conversant, following commands
HEENT: AT/NC, PERRL, anicteric slcera, MMM. OP clear; several
aphous ulcers on inner lower lip
NECK: supple
HEART: RRR, S1/S2, diffuse holosystolic murmur
LUNGS: CTAB, no wheezing, rales, or ronchi
ABDOMEN: distended, soft, mildly tender diffusely, slightly more
tender on R surrounding para site, eccymosis on R side abdomen, 
+
fluid wave, ventral hernia reducible, just superior to 
umbilicus.
+caput medusa. No rebound or guarding. R side prior paracentesis 
site healing well with no overlying erythema.
EXTREMITIES: WWP, no ___ edema. Scattered bruises. Bruising over 
L
knee and medial aspect of R knee. No overlying erythema or
warmth, no evidence of knee joint effusions. 2+ DP pulses
bilaterally 
SKIN: warm and well perfused, multiple telangectasias 

 
Pertinent Results:
ADMISSION LABS
=====================
___ 07:53PM BLOOD WBC-12.4* RBC-2.67* Hgb-7.9* Hct-25.4* 
MCV-95 MCH-29.6 MCHC-31.1* RDW-17.8* RDWSD-61.2* Plt Ct-78*
___ 07:53PM BLOOD Neuts-85.0* Lymphs-5.9* Monos-8.1 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-10.50* AbsLymp-0.73* 
AbsMono-1.00* AbsEos-0.03* AbsBaso-0.03
___ 07:53PM BLOOD ___ PTT-38.6* ___
___ 07:53PM BLOOD Glucose-92 UreaN-20 Creat-1.1 Na-138 
K-4.2 Cl-100 HCO3-23 AnGap-15
___ 07:53PM BLOOD ALT-40 AST-215* AlkPhos-88 TotBili-1.2
___ 07:53PM BLOOD Albumin-3.2* Calcium-8.6 Phos-3.7 Mg-2.3
___ 07:53PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:00AM BLOOD HCV VL-NOT DETECT
___ 07:53PM BLOOD Lactate-1.8

DISCHARGE LABS
======================
___ 07:00AM BLOOD WBC-5.3 RBC-2.81* Hgb-8.3* Hct-26.7* 
MCV-95 MCH-29.5 MCHC-31.1* RDW-18.6* RDWSD-62.2* Plt Ct-60*
___ 01:28PM BLOOD ___ PTT-36.5 ___
___ 07:00AM BLOOD Glucose-152* UreaN-33* Creat-0.7 Na-132* 
K-4.9 Cl-97 HCO3-24 AnGap-11
___ 07:00AM BLOOD ALT-37 AST-54* AlkPhos-119* TotBili-0.8

___ 07:00AM BLOOD Calcium-8.8 Phos-3.6 Mg-2.6

PERTINENT LABS
======================
___ 07:00AM BLOOD CK-MB-5 cTropnT-<0.01
___ 07:20AM BLOOD CK-MB-4 cTropnT-<0.01
___ 07:00AM BLOOD CK-MB-7 cTropnT-0.03*
___ 07:53PM BLOOD CK-MB-13* cTropnT-0.05* proBNP-310*
___ 07:00AM BLOOD ALT-39 AST-202* LD(LDH)-268* 
CK(CPK)-3650* AlkPhos-78 TotBili-1.3
___ 07:00AM BLOOD ALT-57* AST-237* CK(CPK)-3961* AlkPhos-92 
TotBili-1.0
___ 07:53PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:00AM BLOOD HCV VL-NOT DETECT

IMAGING
======================
___ C-SPINE W/O CONTRAST IMPRESSION: 
 No acute fracture or malalignment of the cervical spine.

___ HEAD W/O CONTRAS IMPRESSION: 
No evidence of acute intracranial process.

___ SHOULDER IMPRESSION: (lEFT)
No acute fracture or dislocation.

___ (AP, LAT & OBLIQUE FINDINGS: 
 
No acute fracture or dislocation.  No joint effusion.  Joint 
spaces are
preserved without significant degenerative changes.  No 
suspicious lytic or sclerotic osseous abnormalities.  Diffuse 
vascular calcifications.  No radiopaque foreign body.

___ (PA & LAT) IMPRESSION: 
 
New mild interstitial pulmonary edema.  Patchy opacities within 
the lung bases likely reflect atelectasis in the setting of low 
lung volumes.

___ DIAG/THERA IMPRESSION:  
-Technically successful ultrasound guided therapeutic 
paracentesis.
-1.4 L of fluid were removed.

___ Report CONCLUSION:
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
suboptimal image quality to assess regional left ventricular 
function. Global left ventricular systolic function is normal. 
Quantitative biplane left
ventricular ejection fraction is 67 %. The visually estimated 
left ventricular ejection fraction is 70%. Tissue Doppler 
suggests an increased left ventricular filling pressure (PCWP 
greater than 18mmHg). Normal right ventricular cavity size with 
normal free wall motion. The aortic sinus diameter is normal for 
gender with normal ascending aorta diameter for gender. The 
aortic arch diameter is normal. The aortic valve leaflets (3) 
appear structurally normal. There is no aortic valve stenosis. 
There is no aortic regurgitation. The mitral leaflets are mildly 
thickened. There is severe mitral annular calcification. There 
is mild mitral stenosis from the prominent mitral annular 
calcification. There is trivial mitral regurgitation. The 
tricuspid valve leaflets appear structurally normal. There is 
trivial tricuspid regurgitation. There is no pericardial 
effusion.

___ Imaging LIVER OR GALLBLADDER US  IMPRESSION: 
1. Cirrhotic liver, with sequelae of portal hypertension 
including 
splenomegaly and small to moderate ascites.  Patent main, left, 
and right 
portal veins. 
2. Stable prominence of the left intrahepatic biliary ducts with 
stable 
dilatation of the CBD status post cholecystectomy. 

___ Imaging ART EXT (REST ONLY)  IMPRESSION:  
Severe multilevel occlusive disease bilaterally.  There is 
evidence of 
critical limb throughout on the right.  There is been 
significant 
deterioration compared to the prior study.

___ Imaging PARACENTESIS DIAG/THERA  IMPRESSION: 
 
-Technically successful ultrasound guided therapeutic 
paracentesis. 
-1.8 L of fluid were removed 

___ Imaging ABDOMEN (SUPINE & ERECT  IMPRESSION:  
  
Nonspecific, nonobstructive bowel gas pattern.  Distended 
stomach.   
The Dobhoff projects over the second portion of the duodenum 

___ ABD LIMIT, SINGLE OR IMPRESSION:
1. Insufficient volume of ascites and a paracentesis was not 
performed.

 
MICROBIOLOGY
===========================
Microbiology Results(last 7 days) ___  
__________________________________________________________
___ 4:21 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 
__________________________________________________________
___ 4:21 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 
__________________________________________________________
___ 12:08 pm MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 
__________________________________________________________
___ 6:50 am Blood (CMV AB)

                            **FINAL REPORT ___

   CMV IgG ANTIBODY (Final ___: 
      POSITIVE FOR CMV IgG ANTIBODY BY EIA. 
      6 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  INFECTION AT UNDETERMINED TIME. 
      A positive IgG result generally indicates past exposure. 
      Infection with CMV once contracted remains latent and may 
reactivate
      when immunity is compromised. 
      Greatly elevated serum protein with IgG levels ___ mg/dl 
may cause 
      interference with CMV IgM results. 
      If current infection is suspected, submit follow-up serum 
in ___
      weeks. 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 2:08 am
      URINE      ADDED TO ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 12:10 am
      URINE     Site: NOT SPECIFIED      ADDED TO ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 10:58 pm
      PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 8:11 pm BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 7:53 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
___ PMH HCV (genotype 1a)/EtOH cirrhosis (c/b ascites, 
esophageal varices, and hepatic encephalopathy), polysubstance 
use disorder, HLD, COPD, PVD, GERD s/p lap fundoplication and 
hiatal hernia repair, presenting with fall likely due to 
overmedication or hepatic encephalopathy iso not taking 
sufficient lactulose, course c/b hyponatremia and anemia. 

# Hyponatremia: Likely due to free water intake and poor solute 
intake in the setting of cirrhosis, less likely HRS. Improved 
with albumin, IV Lasix, and starting 2L fluid restriction. Na on 
discharge 132.

# Normocytic Anemia: Baseline Hb ___, Hb of 6.8 on ___ likely 
due to fluid shifts rather than acute GIB. No melena per 
RN/patient report. EGD ___ showed grade II varices in the distal 
esophagus. Patient received 1U pRBC on ___ with appropriate 
response.

# Abdominal Pain: Likely chronic due to cirrhosis and volume 
overload. No evidence of infection on initial diagnostic 
paracentesis. No e/o clot on RUQUS ___. S/p therapeutic 
paracentesis ___ and ___ (1.4L). Patient received pregabalin 
150 mg BID and morphine 10 mg Q4H:PRN max total daily dose of 40 
mg for pain, and methadone 2.5 mg daily was started on this 
admission per palliative care recommendations.

# Hepatic Encephalopathy: Patient confused with positive 
asterixis on admission exam concerning for HE. Mental status 
improved w/ lactulose. Pt reports she was not taking lactulose 
regularly at home. Infectious studies negative to date. Patient 
received lactulose to target ___ BM/day and rifaxamin 550 mg BID 
and mental status improved to baseline.

# Transaminitis: Patient with new transaminitis on admission. 
Likely due to mild rhabdomyolysis given elevated CK on admission 
vs. patient taking statin at home which was supposed to be held. 
Transaminitis downtrended prior to discharge. Statin was removed 
from medication list. 

# T2DM: Pt with new hyperglycemia in setting of starting TF. 
___ was consulted. Patient was discarged on 8U lantus QAM, 
Humalog sliding scale, and 22U NPH prior to starting TF in the 
evening. Patient received education on how to use insulin and 
check her sugars. Requires close follow up with ___.

# PAD: ___ pain worse with walking concerning for claudication. 
___ pulses intact on exam. ABI ___ shows severe b/l disease with 
e/o critical limb ischemia on the right, worse compared to 
prior. Vascular surgery recommended outpatient follow up.

# Oral candidiasis: Patient received nystatin swish and swallow 
(___) with improvement in symptoms and resolution of oral 
thrush. Nystatin discontinued at discharge.

# Troponemia. Patient w/ elevated troponin and CK-MB on 
admission, however in the absence of EKG changes or chest pain 
heparin was deferred. TTE without evidence of wall motion 
abnormalities. Patient without chest pain throughout admission 
but did note chest pressure during hospitalization. Troponin 
down trended to normal and repeat EKG shows no changes compared 
to prior.

# Fall: Patient presented with fall without LOC and presyncope. 
Likely due to medication effect (taking tizanidine which was 
supposed to be on hold and not spacing morphine/pregabalin) and 
hepatic encephalopathy iso not taking home lactulose. Palliative 
care had home medications brought in and inappropriate 
medications were disposed.

Chronic/Resolved Issues:
========================

# Chronic pain: Received pregabalin 150 mg BID and morphine ___ m 
Q4H:PRN. Methadone 2.5 mg QD was started on this admission per 
palliative care recommendations.

# ___: Patient w/ ___ to 1.1 from recent baseline 0.7-0.8. 
Possibly secondary to poor PO intake in setting of altered 
mental status vs hepatorenal syndrome. ___ resolved with 
initiation of PO intake and IV albumin.

# EtOH cirrhosis (Child's Class B, MELD 15 on admission): 
Complicated by ascites, esophageal varices, and HE. Last 
paracentesis ___ with 1.8 L removed. Last EGD ___ with grade II 
varices in distal esophagus. No history of SBP. Patient received 
lactulose/rifaxamin as above and PRN IV lasix for volume 
overload. 

CHRONIC ISSUES:
===============

# HCV (genotype 1a): HCV VL undecetable on this admission. She 
was continued on sofosbuvir-velpatasvir.

# Severe protein-calorie malnutrition. NJT placed replaced on 
___ during last admission. Continued home zinc/multivitamin. TF 
were cycled at night.

# COPD: Continued on fluticasone-salmeterol, home tiotropium and 
PRN albuterol.

# GERD: Patient reports home pantoprazole not compatible with 
her hep C medications.

# Polysubstance use disorder: Continued home folic acid, 
thiamine, and multivitamin 

# Depression: Home escitalopram increased from 10 mg QD to 20 mg 
QD per palliative care recommendations.

TRANSITIONAL ISSUES:
=====================
[ ] Close follow up with ___ required for new-insulin usage
[ ] Statin discontinued iso potential cause of transaminitis 
[ ] Bladder scan at ___ to confirm she is not retaining 
[ ] Discharge weight 57.3kg/ 126.32 lbs (___)
[ ] Discharge Na 132
[ ] Discharge Cr 0.7
[ ] Discharge Hb 8.3
[ ] Repeat CBC and Na on ___ at to confirm Na stable and Hb 
stable
[ ] F/u with vascular for PAD
[ ] F/u B1 and Zinc
[ ] Patient may need once weekly therapeutic paracentesis.
[ ] F/u EKG for QTC on ___ as patient was started on methadone 
on this admission. Discharge QTc (___) 427

#CODE: Full 
#CONTACT: ___ (fianc) p: ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily 
3. Escitalopram Oxalate 10 mg PO DAILY 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. FoLIC Acid 1 mg PO DAILY 
6. Furosemide 40 mg PO DAILY 
7. HydrOXYzine 25 mg PO BID:PRN itch 
8. Lactulose 30 mL PO TID 
9. Lidocaine 5% Patch 2 PTCH TD QAM 
10. Morphine Sulfate ___ 15 mg PO Q4H:PRN Pain - Moderate 
11. Multivitamins W/minerals 1 TAB PO DAILY 
12. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Rifaximin 550 mg PO BID 
15. Thiamine 100 mg PO DAILY 
16. Zinc Sulfate 220 mg PO DAILY 
17. Fluticasone Propionate NASAL 1 SPRY NU BID 
18. Valsartan 320 mg PO DAILY 
19. Tiotropium Bromide 1 CAP IH DAILY 
20. Albuterol Inhaler 2 PUFF IH Q4H-Q6H PRN shortness of breath, 
wheezing 
21. Pregabalin 150 mg PO BID 
22. Albuterol 0.083% Neb Soln ___ NEB IH Q4H:PRN shortness of 
breath, wheezing 
23. GuaiFENesin 15 mL PO BID cough 
24. Loratadine 10 mg PO DAILY:PRN ASDIR 
25. TraZODone 50-100 mg PO QHS 
26. Simvastatin 20 mg PO QPM 
27. Tizanidine 2 mg PO DAILY:PRN muscle spasm 
28. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Glargine 8 Units Breakfast
NPH 22 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Lantus U-100 Insulin] 100 unit/mL AS DIR 8 
Units before BKFT; Disp #*5 Vial Refills:*0
RX *insulin lispro [Humalog U-100 Insulin] 100 unit/mL AS DIR Up 
to 8 Units QID per sliding scale Disp #*5 Vial Refills:*0
RX *insulin NPH isoph U-100 human [Novolin N NPH U-100 Insulin] 
100 unit/mL AS DIR 22 Units before DINR; Disp #*5 Vial 
Refills:*0
RX *insulin syringe-needle U-100 [BD Insulin Syringe Ultra-Fine] 
31 gauge X ___  nine times per day Disp #*5 Syringe 
Refills:*0 
2.  Methadone 2.5 mg PO DAILY 
RX *methadone 5 mg 0.5 (One half) tab by mouth daily Disp #*4 
Tablet Refills:*0 
3.  Escitalopram Oxalate 20 mg PO DAILY 
RX *escitalopram oxalate 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Morphine Sulfate ___ 10 mg PO Q4H:PRN Pain - Moderate 
Max 40mg per day. 
RX *morphine 10 mg/5 mL 5 ml by mouth every four (4) hours 
Refills:*0 
5.  Albuterol 0.083% Neb Soln ___ NEB IH Q4H:PRN shortness of 
breath, wheezing  
6.  Albuterol Inhaler 2 PUFF IH Q4H-Q6H PRN shortness of breath, 
wheezing  
7.  Aspirin 81 mg PO DAILY  
8.  Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily  
9.  Fluticasone Propionate NASAL 1 SPRY NU BID  
10.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
11.  FoLIC Acid 1 mg PO DAILY  
12.  Lactulose 30 mL PO TID  
13.  Lidocaine 5% Patch 2 PTCH TD QAM  
14.  Multivitamins W/minerals 1 TAB PO DAILY  
15.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
16.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
17.  Pregabalin 150 mg PO BID  
18.  Rifaximin 550 mg PO BID  
19.  Thiamine 100 mg PO DAILY  
20.  Tiotropium Bromide 1 CAP IH DAILY  
21.  Zinc Sulfate 220 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
================
Hepatic encephalopathy
Cirrhosis

SECONDARY DIAGNOSIS
==================
Chronic pain
Anemia
Thrombocytopenia
Peripheral arterial disease
Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?
- You were here because you fell and you were confused.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You received procedures to remove fluid from your abdomen.
- You received lactulose and your mental status improved.
- We started you on insulin because your blood sugars were high.
- You received a blood transfusion because your blood cell count 
was low.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- Please make sure you're taking lactulose and having ___ bowel 
movements per day.
- Your insulin regimen is provided for you at discharge.

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___